US07498440B2
3-bromopropyl 3-nitrophenyl ether
To a solution of 3-nitrophenol (0.0689 g, 0.495 mmol) in acetonitrile (4 mL) was added 1,3-dibromopropane (0.500 mL, 3.05 mmol) followed by Cs2CO3 (0.244 g, 0.748 mmol). The reaction mixture was stirred for 24 h and then concentrated under vacuum. The resulting residue was treated with H2O (4 mL) and extracted with DCM (8 mL). The organic layer was dried through a phase separator and concentrated under vacuum. The residue was taken up in DMSO and purified by preparatory HPLC (without TFA) to give the title compound (0.0730 g, 56.6%). EI-MS Rt (2.20 min).

reactant | 3-nitrophenol | 0.495 mmol, 0.0689 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 1,3-dibromopropane | 3.05 mmol, 0.500 mL | BrCCCBr | C3H6Br2
reactant | Cs2CO3 | 0.748 mmol, 0.244 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 3-bromopropyl 3-nitrophenyl ether | 0.0730 g, 56.6% | [N+](=O)([O-])C=1C=C(C=CC1)OCCCBr | C9H10BrNO3
